US04130663
N-(4-Nitrostyrylsulfonyl)benzimidoyl chloride. A mixture of 4-nitrostyrylsulfonamide (18.2 g., 0.08 mole), benzoyl chloride (12.6 g., 0.09 mole) and phosphorus oxychloride (13.8 g., 0.09 mole) is heated at steam bath temperature for 1.5 hr. The reaction mixture diluted with 20 ml. of ethyl acetate, cooled and filtered affords 19.0 g. (76% yield) of N-(4-nitrostyrylsulfonyl)benzamide, m.p. 192°-195° C., from ethyl acetate-hexane.

reactant | N-(4-Nitrostyrylsulfonyl)benzimidoyl chloride | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)N=C(C2=CC=CC=C2)Cl)C=C1 | C15H11ClN2O4S
reactant | 4-nitrostyrylsulfonamide | 0.08 mole, 18.2 g | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)N)C=C1 | C8H8N2O4S
reactant | benzoyl chloride | 0.09 mole, 12.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | phosphorus oxychloride | 0.09 mole, 13.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-nitrostyrylsulfonyl)benzamide | 76% yield | [N+](=O)([O-])C1=CC=C(C=CS(=O)(=O)NC(C2=CC=CC=C2)=O)C=C1 | C15H12N2O5S
